US04189484
2-[4-(3,4-Methylenedioxycinnamoyl)-piperazin-1-yl]-4-amino-6,7-dimethoxyquinazoline
To a solution of 346 mg. of 3,4-methylenedioxycinnamic acid and 364 mg. of triethylamine in 20 ml. of ethyl acetate were added under ice-cooling 195 mg. of ethyl chlorocarbonate and the resulting mixture was then stirred for 4 hours. Then, 543 mg. of 2-(piperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline.hydrochloride were added thereto and the resulting mixture was stirred at room temperature overnight. After 50 ml. of water were added, the precipitate thus separated was recovered by filtration. The resulting crystalline substance was recrystallized from ethanol to give 320 mg. of the desired product as the hydrochloride.

reactant | 3,4-methylenedioxycinnamic acid | C1OC=2C=C(C=CC(=O)O)C=CC2O1 | C10H8O4
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | C(OCC)(=O)Cl | C3H5ClO2
reactant | 2-(piperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline.hydrochloride | Cl.N1(CCNCC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-(3,4-Methylenedioxycinnamoyl)-piperazin-1-yl]-4-amino-6,7-dimethoxyquinazoline | C1OC=2C=C(C=CC(=O)N3CCN(CC3)C3=NC4=CC(=C(C=C4C(=N3)N)OC)OC)C=CC2O1 | C24H25N5O5
